US04555521
In a manner similar to L. Friedman and H. Shechter, J. O. C., 26, 2522 (1961), incorporated herein by reference, 1.15 g (0.0043 mole) of 4-(4-bromophenyl)-3-methoxy-1,2,5-thiadiazole, 0.46 g (0.0051 mole) of copper cyanide, 15 ml of N,N-dimethylformamide, and a solution of 66.5 g of sodium cyanide in 200 ml of water were reacted to produce 0.58 g of 4-(4-cyanophenyl)-3-methoxy-1,2,5-thiadiazole, Compound 30 of Table I. Compounds 8 and 44 were also prepared by this method.

reactant | 4-(4-bromophenyl)-3-methoxy-1,2,5-thiadiazole | 0.0043 mole, 1.15 g | BrC1=CC=C(C=C1)C=1C(=NSN1)OC | C9H7BrN2OS
reactant | copper cyanide | 0.0051 mole, 0.46 g | [Cu](C#N)C#N
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | sodium cyanide | 66.5 g | [C-]#N.[Na+]
solvent | water | 200 ml | O | H2O
product | 4-(4-cyanophenyl)-3-methoxy-1,2,5-thiadiazole | 0.58 g | C(#N)C1=CC=C(C=C1)C=1C(=NSN1)OC | C10H7N3OS
